### ISSUE TITLE
[TODO] Section 2001: Complete 3 fragile proof replacements

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/us-tax-code-lean#55]
## Context

During Phase 1 bug fixes (issue #35), we removed unstable tactics (`grind`, `exact?`, `native_decide`) and replaced them with `sorry` for build stability. Three proofs need completion with stable tactics.

## Location

**File**: `src/TaxCode/Section2001.lean`

### 1. `int_mono_glue` (Lines 137-138)

**Current**:
```lean
lemma int_mono_glue {f g : Int → Int} {c : Int}
    (hf : ∀ x y, x ≤ y → y ≤ c → f x ≤ f y)
    (hg : ∀ x y, c < x → x ≤ y → g x ≤ g y)
    (h_glue : f c ≤ g (c + 1)) :
    ∀ x y, x ≤ y → (if x ≤ c then f x else g x) ≤ (if y ≤ c then f y else g y) := by
      intros x y hxy
      split_ifs with hxc hyc
      · exact hf x y hxy hyc
      · sorry  -- TODO: Prove gluing case
      · sorry  -- TODO: Prove impossible case (x > c but y ≤ c contradicts x ≤ y)
      · exact hg x y (Int.not_le.mp hxc) hxy
```

**What's needed**: 
- Gluing case: Use `h_glue` with transitivity
- Impossible case: Derive contradiction from `x > c`, `y ≤ c`, and `x ≤ y`

### 2. `int_affine_mono_general` (Line 147)

**Current**:
```lean
lemma int_affine_mono_general {x y m d k c : Int} (h : x ≤ y) (hm : 0 ≤ m) (hd : 0 < d) :
  c + (x * m + k) / d ≤ c + (y * m + k) / d := by
    sorry  -- TODO: Complete proof with stable tactics
```

**What's needed**: Integer division monotonicity with offset

### 3. `section2001_c_rate_schedule_monotone` (Line 159)

**Current**:
```lean
theorem section2001_c_rate_schedule_monotone (a b : Currency) (h : a ≤ b) :
  section2001_c_rate_schedule a ≤ section2001_c_rate_schedule b := by
    sorry  -- TODO: Refactor with stable tactics (remove exact?, native_decide)
```

**What's needed**: Prove monotonicity through all 12 tax brackets

## Suggested Approach

- Use `omega` for arithmetic inequalities
- Use `linarith` or `nlinarith` for linear combinations
- Case analysis with `split_ifs` for conditional branches
- `contradiction` or `omega` for impossible cases

## Related

- Original issue: #35
- Commit: b5603c5

## Priority

**MEDIUM** - These are foundational lemmas for estate tax calculations
